US09145409B2
A solution of (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide (0.688 g, 2 mmol), 4-formylbenzoic acid (0.300 g, 2 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.767 g, 4 mmol) and 4-(dimethylamino)pyridine (0.122 g, 1 mmol) in anhydrous DCM (30 mL) was stirred at RT for 21 h. The reaction mixture was partitioned between saturated aqueous NaHCO3 (20 mL) and DCM (10 mL) and filtered through a phase separator. The solvent was removed in vacuo and the crude material was purified by silica gel column chromatography eluting with 1:1 DCM:EtOAc to afford (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-((4-formylbenzoyl)oxy)ethyl)pyridine 1-oxide as an off-white solid (0.863 g, 91%).

reactant | (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-hydroxyethyl)pyridine 1-oxide | 2 mmol, 0.688 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C15H15Cl2NO4
reactant | 4-formylbenzoic acid | 2 mmol, 0.300 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4 mmol, 0.767 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)pyridine | 1 mmol, 0.122 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3,4-dimethoxyphenyl)-2-((4-formylbenzoyl)oxy)ethyl)pyridine 1-oxide | 0.863 g, 91% | ClC=1C=[N+](C=C(C1C[C@H](OC(C1=CC=C(C=C1)C=O)=O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C23H19Cl2NO6
